US07662841B2
A 2 M aqueous solution (10 ml) of potassium hydroxide was added to a solution of ethyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate (265 mg, 0.96 mmol) in methanol (20 ml), and the mixture was stirred at room temperature for 18 hr. Methanol was removed by distillation under the reduced pressure, and the reaction solution was poured into 2 M hydrochloric acid (30 ml) under ice cooling to precipitate a solid. The resultant solid was washed with water, and a mixed solvent composed mainly of ethanol and toluene was added thereto. The solvent was removed by distillation under the reduced pressure, and the residue was thoroughly dried to give 2-bromoimidazo[5,1-b]thiazole-7-carboxylic acid (236 mg, quantitative) as a white solid.

reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate | 0.96 mmol, 265 mg | BrC1=CN2C(S1)=C(N=C2)C(=O)OCC | C8H7BrN2O2S
solvent | methanol | 20 ml | CO | CH4O
product | 2-bromoimidazo[5,1-b]thiazole-7-carboxylic acid | 236 mg | BrC1=CN2C(S1)=C(N=C2)C(=O)O | C6H3BrN2O2S
